### PR TITLE
Add Algorithmic Typing Rules

### LINKED ISSUE #162: Algorithmic Typing Judgements
We need them for a readable presentation of our type-checker implementation.

### PR DESCRIPTION
**Pull request by Ailrun**
Resolves #162.
Together with completeness&soundness.

### CODE REVIEW

File: theories/Algorithmic/Typing/Definitions.v [hunk 1]
```diff
@@ -0,0 +1,71 @@
...
+
+Generalizable All Variables.
+
+Inductive alg_type_check : ctx -> typ -> exp -> Prop :=
+| atc_ati :
+  `( {{ Γ ⊢a M ⟹ A }} ->
+     {{ Γ ⊢a A ⊆ B }} ->
+     {{ Γ ⊢a M ⟸ B }} )
+where "Γ '⊢a' M ⟸ A" := (alg_type_check Γ A M) (in custom judg) : type_scope
+with alg_type_infer : ctx -> typ -> exp -> Prop :=
```
Comment (HuStmpHrrr) [inline theories/Algorithmic/Typing/Definitions.v:21]: I think you can be more specific here by saying infer returns a normal form

File: theories/Algorithmic/Typing/Lemmas.v [hunk 2]
```diff
@@ -0,0 +1,283 @@
...
+  pose proof alg_type_sound; intuition.
+Qed.
+
+Lemma alg_type_infer_sound : forall {Γ A M},
+    {{ Γ ⊢a M ⟹ A }} -> {{ ⊢ Γ }} -> {{ Γ ⊢ M : A }}.
+Proof.
+  pose proof alg_type_sound; intuition.
+Qed.
+
+Lemma alg_type_infer_normal : forall {Γ A A' M},
```
Comment (HuStmpHrrr) [inline theories/Algorithmic/Typing/Lemmas.v:102]: yeah, if you mark the type above to nf then this should be an obvious proof using idempotency.

File: theories/Algorithmic/Typing/Lemmas.v [hunk 3]
```diff
@@ -0,0 +1,283 @@
...
+    {{ Γ ⊢a M ⟸ A' }}.
+Proof.
+  intros * [] **.
+  assert {{ Γ0 ⊢ B ⊆ A' }} by mauto 3.
+  assert {{ Γ0 ⊢a B ⊆ A' }} by mauto 3 using alg_subtyping_complete.
+  mauto 3 using alg_subtyping_trans.
+Qed.
+
+Lemma alg_type_complete : forall {Γ A M},
+    (* There should be one more condition to rule out substitution cases *)
```
Comment (HuStmpHrrr) [inline theories/Algorithmic/Typing/Lemmas.v:236]: yeah you will need a recursive predicate that says M contains no a_sub

File: theories/Algorithmic/Typing/Lemmas.v (hunk 2 above)
Comment (Ailrun) [reply theories/Algorithmic/Typing/Lemmas.v:102]: How? I mean, even then it knows something like `nbe_ty Γ ? A` to apply idempotency, not just `A : nf`.

Comment (HuStmpHrrr) [reply theories/Algorithmic/Typing/Lemmas.v:105]: hmmm i see, but this lemma effectively also say that the inference mode gives *the* normal type, right? I somehow feel that the soundness lemma above can be strengthened to express that, though I don't have an idea about how now.

File: theories/Algorithmic/Typing/Lemmas.v [hunk 4]
```diff
@@ -0,0 +1,302 @@
...
+    assert {{ Γ ⊢ B'[Id,,N] ⊆ B[Id,,N] }} by mauto 3.
+    assert {{ Γ ⊢ W ⊆ B[Id,,N] }} by (transitivity {{{ B'[Id,,N] }}}; mauto 3).
+    econstructor; mauto 4 using alg_type_check_conv, alg_subtyping_complete.
+  - assert (exists i, {{ Γ ⊢ A : Type@i }}) as [i] by mauto 3.
+    assert (exists W, nbe_ty Γ A W /\ {{ Γ ⊢ A ≈ W : Type@i }}) as [W []] by (eapply soundness_ty; mauto 3).
+    econstructor; mauto 4 using alg_subtyping_complete.
+Qed.
+
+(* There might be a better file for this. *)
+Functional Scheme elaborate_fun_ind := Induction for elaborate Sort Prop.
```
Comment (HuStmpHrrr) [inline theories/Algorithmic/Typing/Lemmas.v:290]: the same file as the elaborator?

File: theories/Core/Semantic/PER/Definitions.v [hunk 5]
```diff
@@ -222,6 +222,10 @@ Section Per_univ_elem_ind_def.
         (fun _ _ _ _ _ => case_ne i)
         R a b H.
 
+  Search "per_univ_elem".
```
Comment (HuStmpHrrr) [inline theories/Core/Semantic/PER/Definitions.v:225]: leftover

File: theories/Algorithmic/Typing/Lemmas.v [hunk 6]
```diff
@@ -0,0 +1,302 @@
...
+    {{ Γ ⊢ A ≈ A' : Type@i }} ->
+    {{ Γ ⊢a M ⟸ A' }}.
+Proof.
+  intros * [] **.
+  assert {{ Γ0 ⊢ B ⊆ A' }} by mauto 3.
+  assert {{ Γ0 ⊢a B ⊆ A' }} by mauto 3 using alg_subtyping_complete.
+  mauto 3 using alg_subtyping_trans.
+Qed.
+
+Lemma alg_type_complete : forall {Γ A M},
```
Comment (HuStmpHrrr) [inline theories/Algorithmic/Typing/Lemmas.v:238]: I guess this lemma should also have an unfolded version, where the conclusion gives the infer direction, especially for A = some universe. This lemma will be applied when checking the user input type to be a valid type.

File: theories/Algorithmic/Typing/Definitions.v [hunk 7]
```diff
@@ -0,0 +1,105 @@
...
+#[export]
+Hint Constructors alg_type_check alg_type_infer (* alg_univ_infer *) : mcltt.
+
+Scheme alg_type_check_mut_ind := Induction for alg_type_check Sort Prop
+with alg_type_infer_mut_ind := Induction for alg_type_infer Sort Prop.
+Combined Scheme alg_type_mut_ind from
+  alg_type_check_mut_ind,
+  alg_type_infer_mut_ind.
+
+Inductive user_exp : exp -> Prop :=
```
Comment (HuStmpHrrr) [inline theories/Algorithmic/Typing/Definitions.v:73]: I think even this definition should go to the same file as the elaborator.

File: theories/Algorithmic/Typing/Definitions.v [hunk 8]
```diff
@@ -0,0 +1,105 @@
...
+     {{ Γ ⊢a N ⟸ A }} ->
+     nbe_ty Γ {{{ B[Id,,N] }}} C ->
+     {{ Γ ⊢a M N ⟹ C }} )
+| ati_vlookup :
+  `( {{ #x : A ∈ Γ }} ->
+     nbe_ty Γ A B ->
+     {{ Γ ⊢a #x ⟹ B }} )
+where "Γ '⊢a' M ⟹ A" := (alg_type_infer Γ A M) (in custom judg) : type_scope.
+
+(* Variant alg_univ_infer : ctx -> nat -> typ -> Prop := *)
```
Comment (HuStmpHrrr) [inline theories/Algorithmic/Typing/Definitions.v:58]: we will need this operation, but I don't suppose it should return anything. The `nat` can probably be removed.

File: theories/Algorithmic/Typing/Lemmas.v (hunk 6 above)
Comment (Ailrun) [reply theories/Algorithmic/Typing/Lemmas.v:238]: You mean combining this with `alg_type_check_type_implies_alg_type_infer_type`? Sure, it's not hard.

File: theories/Algorithmic/Typing/Definitions.v (hunk 8 above)
Comment (Ailrun) [reply theories/Algorithmic/Typing/Definitions.v:58]: Why do we need this?

Comment (Ailrun) [reply theories/Algorithmic/Typing/Definitions.v:58]: Just a FYI, the type checker is already implemented without `alg_univ_infer`.

Comment (HuStmpHrrr) [reply theories/Algorithmic/Typing/Definitions.v]: well, where do you get a well-formed type to check against? you get it from the user right? so typechecking a file requires two calls to the type checker. one checks the well-formedness of user's input type, and the other checks the user's input term has this input type.

Comment (Ailrun) [reply theories/Algorithmic/Typing/Definitions.v]: You can infer one. So, full type-checking steps are
- Construct WF of empty context
- Check the user-given type by Inferring its type.
- Check the user-given term against the empty context and the checked user-given type
